US06933311B2
N-methoxy-N-methyl-4-(trifluoromethyl)benzamide
4-(Trifluoromethyl)benzoyl chloride (5.0 g, 23.9 mmol) and N,O-dimethylhydroxylamine hydrochloride (2.55 g, 26.3 mmol, 1.1 eq.) were combined in CH2Cl2 (200 mL) at 0° C. and treated with pyridine (4.3 mL, 52.6 mmol). After stirring for 2 hours, the mixture was allowed to attain ambient temperature, diluted with diethyl ether and washed with water, aqueous HCl, and water. the organic phase was separated and concentrated to provide the title compound which was used directly in the next step. 1H NMR (300 MHz, d6-DMSO) 7.90 (m, 4H), 3.52 (s, 3H), 3.28 (s, 3H); MS (DCI/NH3) m/e 234 (M+H)+.

reactant | 4-(Trifluoromethyl)benzoyl chloride | 23.9 mmol, 5.0 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 26.3 mmol, 2.55 g, 1.1 eq. | Cl.CNOC
reactant | pyridine | 52.6 mmol, 4.3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-methoxy-N-methyl-4-(trifluoromethyl)benzamide | CON(C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C10H10F3NO2
